US09290472B2
A mixture of 3-fluorobenzyl bromide (2 g) and triethyl phosphite (2.2 mL) was heated at 160° C. under nitrogen for 4 hours. After cooling, the were volatiles removed in vacuo and the residue was purified by chromatography on silica eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 0-100% to give diethyl (3-fluorobenzyl)phosphonate (2.46 g)

reactant | 3-fluorobenzyl bromide | 2 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | triethyl phosphite | 2.2 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl (3-fluorobenzyl)phosphonate | 2.46 g | FC=1C=C(CP(OCC)(OCC)=O)C=CC1 | C11H16FO3P
